US07618996B2
Preparation of Intermediate [4-(4-Carbamoyl-3-hydroxy-phenoxy)-3-fluoro-benzyl]-(2-cyclopropyl-ethyl)-carbamic acid tert-butyl ester (I-1e-2)
(2-Cyclopropyl-ethyl)-[4-(2,2-dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3-fluoro-benzyl]-carbamic acid tert-butyl ester (I-1d-2: 15.8 g) was dissolved in 35 mL of a 2 M solution of ammonia in isopropanol. The resulting solution was then treated with 50 mL of a saturated aqueous ammonia solution and the resulting mixture heated at 80° C. After 8 hours, the reaction mixture was cooled to ambient temperature and concentrated with a rotary evaporator. The residue was diluted with ethyl acetate and the organic solution was washed twice with water, once with brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel eluting with 50% ethyl acetate in heptane to afford the title compound (I-1e-2).

reactant | (2-Cyclopropyl-ethyl)-[4-(2,2-dimethyl-4-oxo-4H-benzo[1,3]dioxin-7-yloxy)-3-fluoro-benzyl]-carbamic acid tert-butyl ester | 15.8 g | C(C)(C)(C)OC(N(CC1=CC(=C(C=C1)OC1=CC2=C(C(OC(O2)(C)C)=O)C=C1)F)CCC1CC1)=O | C27H32FNO6
reactant | ammonia | N | H3N
reactant | ammonia | 50 mL | N | H3N
solvent | isopropanol | C(C)(C)O | C3H8O
product | [4-(4-Carbamoyl-3-hydroxy-phenoxy)-3-fluoro-benzyl]-(2-cyclopropyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC1CC1)CC1=CC(=C(C=C1)OC1=CC(=C(C=C1)C(N)=O)O)F)=O | C24H29FN2O5
